US08455475B2
(R)-Methyl 3-(2,2,2-trifluoroacetamido)-2,3-dihydro-1H-indene-5-carboxylate
To a solution of (3R)-3-amino-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester (A-03) (2.09 g, 6.87 mmol, 1.0 eq.) in methylene chloride (30 ml) was added dropwise TEA (2.86 ml, 20.61 mmol, 3.0 eq.) at 0° C. and it was stirred for 15 min. Triflouroacetic anhydride (1.05 ml, 7.56 mmol, 1.1 eq.) was then added dropwise at 0° C. and the reaction mixture was stirred at RT for 12 h. After completion of the reaction (monitored by TLC), the mixture was diluted with methylene chloride (200 ml) and the organic layer was washed with water (50 ml) and brine (50 ml), and dried over anhydrous Na2SO4. The solvent was evaporated to afford the crude product which was purified by column chromatography (silica gel; 7% ethyl acetate/hexanes) to yield the desired compound as a white solid. Yield: 92% (1.8 g, 6.27 mmol).

reactant | (3R)-3-amino-2,3-dihydro-1H-indene-5-carboxylic acid methyl ester | 6.87 mmol, 2.09 g, 1.0 eq. | COC(=O)C=1C=C2[C@@H](CCC2=CC1)N | C11H13NO2
reactant | Triflouroacetic anhydride | 7.56 mmol, 1.05 ml, 1.1 eq. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (R)-Methyl 3-(2,2,2-trifluoroacetamido)-2,3-dihydro-1H-indene-5-carboxylate | Yield: 92% | FC(C(=O)N[C@@H]1CCC2=CC=C(C=C12)C(=O)OC)(F)F | C13H12F3NO3
